US09284298B2
4-Ethynyl-2-(methylsulfanyl)pyrimidine [(XX) R1=Me, X=—S—, R4=H]
To a solution of Pd(PPh3).CH2Cl2 (22 mg, 0.031 mmol) and PPh3 (17 mg, 0.065 mmol) in THF (200 mL), TEA (300 mL), and 4-Chloro-2-methylsulfanyl-pyrimidine (1.0 g, 6.75 mmol, 1 eq.) were added under argon. CuI (13 mg, 0.065 mmol) and trimethylsilylacetylene (725 mg, 7.25 mmol, 1.1 eq) were then added sequentially. The reaction mixture was heated at reflux for 8 h and cooled to rt. The precipitate was filtered off and washed with AcOEt. The filtrate solution was concentrated and the residue was diluted with DCM and 3 g of silica gel. The solvent was removed and the residue was loaded on silica column. The product was eluted with 10% AcOEt/hexanes to provide the desilylated product (540 mg, 3.6 mmol, 53%).

reactant | 4-Chloro-2-methylsulfanyl-pyrimidine | 6.75 mmol, 1.0 g, 1 eq. | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | trimethylsilylacetylene | 7.25 mmol, 725 mg, 1.1 eq | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.065 mmol, 13 mg | [Cu]I
catalyst | CH2Cl2 | 0.031 mmol, 22 mg | C(Cl)Cl | CH2Cl2
catalyst | PPh3 | 0.065 mmol, 17 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-Ethynyl-2-(methylsulfanyl)pyrimidine | 3.6 mmol, 540 mg, 53% | C(#C)C1=NC(=NC=C1)SC | C7H6N2S
